US07842810B2
6-{[2-(6-Methoxy-[1,5]naphthyridin-4-yl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamino]-methyl}-4H-pyrido[3,2-b][1,4]oxazin-3-one
To a solution of 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carbaldehyde (153 mg, 0.858 mmol) in DMF (1.36 mL) was added 2-(6-methoxy-[1,5]naphthyridin-4-yl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamine (84.4 mg, 0.286 mmol). The reaction mixture was stirred overnight at RT. NaBH4 (37.6 mg, 0.572 mmol) was then added and the suspension was stirred for 1 h at RT. The reaction mixture was diluted with CH3OH and poured into 1 N NaOH. The organic layer was separated, washed with brine (4×), dried (Na2SO4), filtered, and concentrated. The crude material was purified by basic reverse phase HPLC to provide 4.6 mg (3.5%) of the title compound. MS (ESI): exact mass calculated for C24H23N7O3, 457.19; m/z found, 458.3 [M+H]+. 1H NMR (500 MHz, CDCl3): 9.09 (s, 1H), 8.75 (d, J=5.1, 1H), 8.25 (d, J=9.1, 1H), 8.14 (d, J=5.1, 1H), 7.19 (d, J=8.0, 1H), 7.17 (d, J=9.1, 1H), 6.95 (d, J=8.0, 1H), 4.62 (s, 2H), 4.09 (s, 3H), 3.92 (s, 2H), 3.09-2.98 (m, 3H), 2.83-2.77 (m, 1H), 2.56 (dd, J=14.6, 7.9, 1H), 2.17-2.14 (m, 1H), 1.89-1.82 (m, 1H), 1.24 (s, 1H).

reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carbaldehyde | 0.858 mmol, 153 mg | O=C1NC2=C(OC1)C=CC(=N2)C=O | C8H6N2O3
reactant | 2-(6-methoxy-[1,5]naphthyridin-4-yl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamine | 0.286 mmol, 84.4 mg | COC=1N=C2C(=CC=NC2=CC1)N1N=C2CCC(CC2=C1)N | C16H17N5O
reactant | NaBH4 | 0.572 mmol, 37.6 mg | [BH4-].[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | DMF | 1.36 mL | CN(C)C=O | C3H7NO
solvent | CH3OH | CO | CH4O
product | 6-{[2-(6-Methoxy-[1,5]naphthyridin-4-yl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamino]-methyl}-4H-pyrido[3,2-b][1,4]oxazin-3-one | 4.6 mg, 3.5% | COC=1N=C2C(=CC=NC2=CC1)N1N=C2CCC(CC2=C1)NCC=1C=CC=2OCC(NC2N1)=O | C24H23N7O3
